My hope is that most people will only use a buffer if they want its full benefit, as it will be pretty complicated to make a behavior model for that pin.* OPA695 - Rev. A
* Created by Sean Cashin; 2020-02-05
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt OPA695 IN+ IN- OUT VCC VEE
******************************************************
.MODEL R_NOISE RES (T_ABS=27)
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C10         MID N42834  1E-15   
C_C11         N44757 MID  1E-15   
C_C1A1         N709113 N709083  9.362P   
C_C1A23         N701935 CMRR  8P   
C_C1A24         N704979 N705005  13.26P   
C_C3         CLAMP MID  31N   
C_C33         N406634 0  1E-15   
C_C34         N317950 0  1   
C_C35         N406794 0  1E-15   
C_C37         AOL MID  170P   
C_C7         N31014 MID  1E-15   
C_C8         MID N35813  1E-15   
C_C9         MID N38096  1E-15   
C_C_CMP         IN+ MID  1.2E-12   
C_C_VIMON         MID VIMON  1E-9   
C_C_VOUT_S         MID VOUT_S  1E-9   
E_E3         N112292 MID OUT MID 1
E_E6         MID 0 N317950 0 1
E_E7         N1327152 MID N31014 MID 1
G_G2         N10570 N10561 CMRR MID -1E-3
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G6         N25816 N11984 N709113 N705005 -1E-3
G_G74         AOL MID CLAMP MID -1
G_G75         N701935 MID IN+ MID -0.93
G_G76         N704979 MID VEE_B MID -1.3
G_G77         N709083 MID VCC_B MID -0.7321
G_G8         VCC_CLP MID N35813 MID -1E-3
G_G9         VEE_CLP MID N38096 MID -1E-3
I_I_B         N06456 MID DC 13E-6  
I_I_B2         N05102 MID DC 20E-6  
I_I_Q         VCC 0 DC 0.0129  
I_I_Q1         0 VEE DC 0.0129  
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R136         N704979 MID R_NOISELESS 1
R_R169         N1327152 N05102 R_NOISELESS 29
R_R1A1         N701935 CMRR R_NOISELESS 1E4
R_R1A3         N704979 N705005 R_NOISELESS 1E4
R_R1A4         N709083 N709113 R_NOISELESS 1E4
R_R2         N05102 IN- R_NOISELESS 10E-3
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R261         AOL MID R_NOISELESS 1
R_R27         MID N30913 R_NOISELESS 1
R_R28         N31014 N30913 R_NOISELESS 1E-3
R_R29         N35669 VCC_B R_NOISELESS 1E3
R_R2A1         N709113 MID R_NOISELESS 17
R_R2A4         CMRR MID R_NOISELESS 20
R_R2A5         N705005 MID R_NOISELESS 12
R_R3         MID IN+ R_NOISELESS 280K
R_R30         N35813 N35669 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N38050 VEE_B R_NOISELESS 1E3
R_R33         N38096 N38050 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R35         MID VCC_CLP R_NOISELESS 1E9
R_R36         N42663 MID R_NOISELESS 1
R_R363         CLAMP MID R_NOISELESS 1
R_R364         N701935 MID R_NOISELESS 1
R_R37         N42834 N42663 R_NOISELESS 1E-3
R_R38         N44757 N44799 R_NOISELESS 1E-3
R_R39         MID N44799 R_NOISELESS 1
R_R40         MID VEE_CLP R_NOISELESS 1E9
R_R5         N709083 MID R_NOISELESS 1
R_R60         MID AOLNET R_NOISELESS 37K
R_R8         N10561 N10570 R_NOISELESS 1E3
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         N10570 N11984 R_NOISELESS 1E-3
R_R_VIMON         VIMON N110431 R_NOISELESS 100
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 100
V_VCM_MAX         N30136 VCC_B -1.7
V_VCM_MIN         N28602 VEE_B 1.7
X_CLAWN         MID VIMON VEE_B N38050 CLAWN_OPA695 
X_CLAWP         VIMON MID N35669 VCC_B CLAWP_OPA695 
X_CLAW_AMP         VCC_CLP VEE_CLP VOUT_S MID N42663 N44799 CLAMP_AMP_LO_OPA695 
X_CLAW_SRC         N42834 N44757 CLAMP MID CLAW_SRC_OPA695 
X_E_N         IN+ N06456 VNSE_OPA695 
X_H3    OUT AOL N110431 MID 08_OP_AMP_COMPLETE_H3_OPA695 
X_IQ_N         MID VIMON MID VEE IQ_SRC_OPA695 
X_IQ_P         VIMON MID VCC MID IQ_SRC_OPA695 
X_I_NP         N06456 MID FEMT_OPA695 
X_I_NP2         MID N05102 FEMTB_OPA695 
X_U1         N1327152 N05102 AOLNET MID AOL_1_OPA695 
X_U2         AOLNET MID CLAMP MID AOL_2_OPA695 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_OPA695 
X_VOS_DRIFT         N749288 N06456 VOS_DRIFT_OPA695 
X_VOS_VS_VCM         N10561 N749288 VCC VEE VOS_VS_VCM_OPA695 
.ENDS  OPA695
*
.SUBCKT 08_OP_AMP_COMPLETE_H3_OPA695 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H3_OPA695
*
.SUBCKT AOL_1_OPA695 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.03448
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPA695
*
.SUBCKT AOL_2_OPA695 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 90
.PARAM INEG = -134
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA695
*
.SUBCKT CLAMP_AMP_LO_OPA695 VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPA695
*
.SUBCKT CLAWN_OPA695 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.8E-3)
+(50, 1.28E-3)
+(100, 1.48E-3)
+(150, 1.78E-3)
+(200, 6.5E-3)
.ENDS  CLAWN_OPA695
*
.SUBCKT CLAWP_OPA695 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.8E-3)
+(50, 1.28E-3)
+(100, 1.48E-3)
+(150, 1.78E-3)
+(200, 6.5E-3)
.ENDS  CLAWP_OPA695
*
.SUBCKT CLAW_SRC_OPA695 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1000
.PARAM IPOS = 4000
.PARAM INEG = -4000
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPA695
*
.SUBCKT FEMT_OPA695 1 2
.PARAM FLWF=1000
.PARAM NLFF=43000
.PARAM NVRF=19000
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_OPA695
*
.SUBCKT FEMTB_OPA695 1 2
.PARAM FLWF=1000
.PARAM NLFF=50000
.PARAM NVRF=22000
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMTB_OPA695
*
.SUBCKT IQ_SRC_OPA695 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPA695
*
.SUBCKT VCM_CLAMP_OPA695 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA695
*
.SUBCKT VNSE_OPA695 1 2
.PARAM FLW=1000
.PARAM NLF=3
.PARAM NVR=1.7
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA695
*
.SUBCKT VOS_DRIFT_OPA695 VOS+ VOS-
.PARAM DC = -6.7E-3
.PARAM POL = 1
.PARAM DRIFT = 15E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPA695
*
.SUBCKT VOS_VS_VCM_OPA695 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450E-6)
+(0.4, 435E-6)
+(0.55, 275E-6)
+(0.65, 150E-6)
+(0.75, 75E-6)
+(0.85, 25E-6)
+(1, 0)
V1 1 V- 0
.ENDS  VOS_VS_VCM_OPA695